US09255096B1
Methyl 3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)benzoate
A mixture of 6,7,8,9-Tetrahydrothieno[3,2-c]-2,7-naphthyridine (3.0 g, 15.77 mmol, prepared as previously described), methyl-3-bromobenzoate (3.90 g, 18.14 mmol), palladium(II)acetate (354 mg, 1.577 mmol), racemic BINAP (982 mg, 1.577 mmol) and cesium carbonate (7.19 g, 22.08 mmol) in toluene (270 ml) was heated at 100° C. with stirring for 18 hours. Upon cooling to room temperature, the insolubles were filtered off (celite) and washed with EtOAc. The washing was combined with the filtrate and concentrated. Elution through a flash column (silica gel 60, 230-400 mesh, EtOAc) gave the product as a yellow glass (3.54 g, 69%). MS (APCl): (M+1)+=325;

reactant | 6,7,8,9-Tetrahydrothieno[3,2-c]-2,7-naphthyridine | S1C=CC=2N=CC=3CNCCC3C21 | C10H10N2S
reactant | methyl-3-bromobenzoate | 18.14 mmol, 3.90 g | COC(C1=CC(=CC=C1)Br)=O | C8H7BrO2
reactant | BINAP | 1.577 mmol, 982 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 22.08 mmol, 7.19 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 1.577 mmol, 354 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)benzoate | 3.54 g, 69% | S1C=CC=2N=CC=3CN(CCC3C21)C=2C=C(C(=O)OC)C=CC2 | C18H16N2O2S
